US09371280B2
In a 50 mL pressure tube, 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid (prepared as described in US20100152190A1, 1 g, 1.62 mmol), tert-butyl 2-bromoacetate (316 mg, 240 μL, 1.62 mmol) and cesium carbonate (634 mg, 1.95 mmol) were combined with dry dimethyl formamide (10 mL) to give a white suspension. The tube was capped and heated at 50° C. After 10 min, the reaction mixture was cooled down to room temperature, poured into water and extracted with ethyl acetate (2×). The combined ethyl acetate layers were washed with brine solution, dried over anhydrous sodium sulfate, filtered and concentrated to give 2-tert-butoxy-2-oxoethyl 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoate as light yellow solid (1280 mg), which was used without further purification.

reactant | 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid | 1.62 mmol, 1 g | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)O)C=C1)OC)F | C31H29Cl2F2N3O4
reactant | tert-butyl 2-bromoacetate | 1.62 mmol, 240 μL, 316 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | cesium carbonate | 1.95 mmol, 634 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dimethyl formamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-tert-butoxy-2-oxoethyl 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoate | 1280 mg | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)OCC(=O)OC(C)(C)C)C=C1)OC)F | C37H39Cl2F2N3O6
